US05476933
Preparation of 3-Hydroxy-7,8-dichloro-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione (74).
To a stirred suspension of 3-methoxy-7,8-dichloro-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione (100 mg, 362 μmol) in dry CH2Cl2 (2 mL, distilled from CaH2) under N2 there was added a solution of BBr3 in CH2Cl2 (1.0 mL, 1M, Aldrich) in one portion over 5 seconds at ft. A greenish yellow precipitate immediately formed. The reaction was allowed to stir under N2 at rt for 45 min. The reaction was added to saturated NaHCO3 (15 mL) and the resulting beige suspension was allowed to stir for 15 min. The suspension was acidified with concentrated HCl (pH 2), allowed to stir for 15 rain at rt, the solid collected by filtration and washed to neutrality with water (6×2 mL). Crystallization from 95% EtOH (dissolved in 75 mL, hot filtered (Whatman #2), concd to 30 mL, allowed to cool to rt) yielded a beige amorphous solid (68 mg, 71%, >98% pure by 1H NMR, pure by C,H,N analysis); mp 246°-248° C. (dec.); 1H NMR (DMSO-d6) δ2.70 (dd, J= 18.2, 5.6 Hz, 1H), 2.91 (dd, J=18.9, 5.4 Hz, 1H), 3.06 (dd, J=18.3, 4.8 Hz, 1H), 3.26 (dd, J=18.8, 4.6 Hz, 1H), 4.57 (m, 2H), 6.34 (s, 1H), 10.46 (s, 1H), 11.11 (s, 1H). Anal. Calcd for: C, 45.83, H, 3.46, N, 5.34. Found: C, 46.02; H, 3.54; N, 5.26.

reactant | 3-methoxy-7,8-dichloro-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione | 362 μmol, 100 mg | COC=1C(NC2=C(C(C1)=O)CC(C(C2)Cl)Cl)=O | C11H11Cl2NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | pH 2 | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 1.0 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-7,8-dichloro-6,7,8,9-tetrahydro-1H-1-benzazepine-2,5-dione | OC=1C(NC2=C(C(C1)=O)CC(C(C2)Cl)Cl)=O | C10H9Cl2NO3
